US04585774
10.06 Grams of methyl o-(α-chloroacetylamino)benzoate, 15.2 g of N-(3,4-dimethoxybenzoyl)piperzine.monohydrochloride and 16 g of triethylamine were suspended in 55 ml of acetonitrile, and the mixture was reacted at 49°-50° C. for 4 hours. After completion of the reaction, the reaction mixture was ice-cooled, and the crystals formed were collected by filtration. Recrystallized from ethanol to obtain 14.68 g of o-methoxycarbonyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide in the form of colorless needle-like crystals. Melting point: 167.5°-169.0° C.

reactant | methyl o-(α-chloroacetylamino)benzoate | ClCC(=O)NC1=C(C(=O)OC)C=CC=C1 | C10H10ClNO3
reactant | N-(3,4-dimethoxybenzoyl)piperzine | 15.2 g | COC=1C=C(C(=O)N2CCNCC2)C=CC1OC | C13H18N2O3
reactant | monohydrochloride | Cl | ClH
reactant | triethylamine | 16 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 55 ml | C(C)#N | C2H3N
product | o-methoxycarbonyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide | 14.68 g | COC(=O)C1=C(NC(CN2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC=C1 | C23H27N3O6
